US03932471
3,3-Dimethyl-1-nitro-2-butanone oxime (Compound 7668)
To a stirred solution of 18.2 g (0.26 m) of sodium nitrite in 130 ml of dimethyl sulfoxide is added, in portions, 29.0 g (0.15 m) of 1-bromo-3,3-dimethyl-2-butanone oxime. A mild exotherm results and external cooling is used to keep the temperature below 27° C. Additional solvent is added to maintain stirrability. After 20 hours stirring, the mixture is poured onto ice and water to give a solid which is collected on a filter. The 10 g of solid, m. 115°-120° C, thus obtained is recrystallized from a hot benzene-petroleum ether mixture to give 7 g of white crystals, m. 124°-125° C.

reactant | sodium nitrite | 18.2 g | N(=O)[O-].[Na+]
reactant | 1-bromo-3,3-dimethyl-2-butanone oxime | 29.0 g | BrCC(C(C)(C)C)=NO | C6H12BrNO
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 130 ml | CS(=O)C | C2H6OS
product | 3,3-Dimethyl-1-nitro-2-butanone oxime | 7 g | CC(C(C[N+](=O)[O-])=NO)(C)C | C6H12N2O3
